US07381728B2
Step 1: 4-(cis-3,5-Dimethyl-1-piperazinyl)-2-nitrobenzonitrile
A mixture of 4-chloro-2-nitrobenzonitrile (Tetrahedron 1994, 50, 5515-5126) (650 mg, 3.56 mmol), sodium methoxide (270 mg, 5.00 mmol) and acetato-(2′-di-tert-butylphosphino-1,1′-biphenyl-2-yl)palladium (II) (115 mg, 0.25 mmol) was treated with triethylamine (0.25 ml, 1.79 mmol) followed by cis-2,6-dimethylpiperazine (488 mg, 4.27 mmol) and the mixture heated to 85° C. under an inert atmosphere over 30 minutes. The mixture was then kept at this temperature for 16 hours. The mixture was then filtered through kieselguhr, washing with toluene (50 ml) and the filtrate reduced in vacuo. The residue was then purified using an SCX ion exchange cartridge (Varian bond-elute) eluting with methanol followed by 2M ammonia in methanol to afford a dark residue which was purified by mass directed autoprep BPLC to afford the title compound as the formic acid salt. MS (ES+) m/e 261 [M+H]+.

reactant | 4-chloro-2-nitrobenzonitrile | 3.56 mmol, 650 mg | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | sodium methoxide | 5.00 mmol, 270 mg | C[O-].[Na+]
reactant | triethylamine | 1.79 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | cis-2,6-dimethylpiperazine | 4.27 mmol, 488 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
catalyst | acetato-(2′-di-tert-butylphosphino-1,1′-biphenyl-2-yl)palladium (II) | 0.25 mmol, 115 mg | CC(=O)O.CC(C)(C)P(C1=CC=CC=C1C2=CC=CC=[C-]2)C(C)(C)C.[Pd]
product | 4-(cis-3,5-Dimethyl-1-piperazinyl)-2-nitrobenzonitrile | C[C@@H]1CN(C[C@@H](N1)C)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C13H16N4O2
